US07417060B2
To a solution of methyl 4′-(2-hydroxyethoxy)-3-(isopropylthio)-4-biphenylcarboxylate (124 mg) and tetrabromomethane (285 mg) in tetrahydrofuran (1.86 ml) was added triphenylphosphine (207 mg) and stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo, and the residue was purified with silica gel column chromatography to give methyl 4′-(2-bromoethoxy)-3-(isopropylthio)-4-biphenylcarboxylate (142 mg).

reactant | methyl 4′-(2-hydroxyethoxy)-3-(isopropylthio)-4-biphenylcarboxylate | 124 mg | OCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)SC(C)C | C19H22O4S
reactant | tetrabromomethane | 285 mg | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 207 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 1.86 ml | O1CCCC1 | C4H8O
product | methyl 4′-(2-bromoethoxy)-3-(isopropylthio)-4-biphenylcarboxylate | 142 mg | BrCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)SC(C)C | C19H21BrO3S
